US09102623B2
A2.4) 6-[Chloro(difluoro)methyl]-N-(2-methoxyethyl)-2-oxo-1,2-dihydropyridine-3-carboxamide
500 mg (2.2 mmol) of 6-[chloro(difluoro)methyl]-2-oxo-1,2-dihydropyridine-3-carboxylic acid were dissolved in 10 ml of tetrahydrofuran, 508 mg (3.1 mmol) of N,N-carbonyldiimidazole were added and the mixture was then stirred initially at room temperature for 30 min and then under reflux for min. A solution of 202 mg (2.7 mmol) of 2-methoxyethylamine in 2 ml of tetrahydrofuran was then added dropwise, and the mixture was heated under reflux for a further 2 h. The solution was evaporated to dryness, the residue was taken up in ethyl acetate and the solution was washed with 1N hydrochloric acid and water, dried and concentrated. This gave 360 mg (54% of theory) of a light-brown powder.

reactant | 6-[chloro(difluoro)methyl]-2-oxo-1,2-dihydropyridine-3-carboxylic acid | 2.2 mmol, 500 mg | ClC(C1=CC=C(C(N1)=O)C(=O)O)(F)F | C7H4ClF2NO3
reactant | N,N-carbonyldiimidazole | 3.1 mmol, 508 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | 2-methoxyethylamine | 2.7 mmol, 202 mg | COCCN | C3H9NO
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | 6-[Chloro(difluoro)methyl]-N-(2-methoxyethyl)-2-oxo-1,2-dihydropyridine-3-carboxamide | ClC(C1=CC=C(C(N1)=O)C(=O)NCCOC)(F)F | C10H11ClF2N2O3
